US07589200B2
A mixture of 4-nitrophenoxy acetic acid (2.25 g, 11.4 mmole), acetamideoxime, triethylamine hydrochloride (3.85 g, 27.62 mmole), EDCI.HCl (4.37 g, 22.79 mmole) and diisopropylethylamine (7.42 g, 57.40 mmole) in anhydrous THF (250 ml) was refluxed for 18 h. The unhomogenous brown colored reaction mixture was quenched with water and extracted with EtOAc (3×300 mL). The combined organic layers washed successively with aqueous NaHCO3, brine and dried over anhydrous Na2SO4. Removal of solvent and purified by chromatographic purification provided 5-[(4-nitrophenoxy)methyl]-3-methyl-1,2,4-oxadiazole (1.62 g, 60%). 1H NMR (CDCl3): δ 8.24 (d, 2H, J=8.8 Hz), 7.08 (d, 2H, J=8.8 Hz), 5.36 (s, 2H), 2.44 (s, 3H).

reactant | 4-nitrophenoxy acetic acid | 11.4 mmole, 2.25 g | [N+](=O)([O-])C1=CC=C(OCC(=O)O)C=C1 | C8H7NO5
reactant | triethylamine hydrochloride | 27.62 mmole, 3.85 g | Cl.C(C)N(CC)CC
reactant | EDCI.HCl | 22.79 mmole, 4.37 g | CCN=C=NCCCN(C)C.Cl
reactant | diisopropylethylamine | 57.40 mmole, 7.42 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 5-[(4-nitrophenoxy)methyl]-3-methyl-1,2,4-oxadiazole | 1.62 g, 60% | [N+](=O)([O-])C1=CC=C(OCC2=NC(=NO2)C)C=C1 | C10H9N3O4
